US08664408B2
Step C: 4-{3-[cis-Hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide
15.2 kg of 4-(3-chloropropoxy)benzamide, 40.28 kg of cis-octahydrocyclopenta[c]pyrrole in 30% aqueous solution, 63.84 kg of water, 21.48 kg of isopropanol and 14.39 kg of triethylamine are introduced into a reactor. The reaction mixture is stirred and heated at reflux until all the starting material has been consumed. The reaction mixture is then cooled to 20° C., before being filtered and washed with a mixture of isopropanol and water. The product is obtained in the form of a powder in a yield of 83% and with a chemical purity of 97%.

reactant | 4-(3-chloropropoxy)benzamide | 15.2 kg | ClCCCOC1=CC=C(C(=O)N)C=C1 | C10H12ClNO2
reactant | cis-octahydrocyclopenta[c]pyrrole | 40.28 kg | C1NC[C@H]2[C@@H]1CCC2 | C7H13N
reactant | water | 63.84 kg | O | H2O
reactant | isopropanol | 21.48 kg | C(C)(C)O | C3H8O
solvent | triethylamine | 14.39 kg | C(C)N(CC)CC | C6H15N
product | 4-{3-[cis-Hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide | yield of 83% | C1N(C[C@H]2[C@@H]1CCC2)CCCOC2=CC=C(C(=O)N)C=C2 | C17H24N2O2
